US07977352B2
To a 250-mL round bottom flasked is added 10% Pd/C (100 mg) and 1-isopentyl-4-(4-nitrophenyl)piperazine (1.0 g, 3.6 mmol). The flask is sealed with a septum, and flushed with a slow stream of N2. EtOH (30 mL) is then added via syringed into the flask. The flask is again flushed with N2 and then it is fitted with a balloon of hydrogen. An outlet needle is inserted through the septum and the flask is flushed with hydrogen before the outlet needle is removed. The resulting slurry is stirred vigorously under the H2 atmosphere at rt. After 24 h the yellow color of the solution dissipated and the hydrogen balloon is removed. The flask is flushed with nitrogen, DCM (10 mL) is added to the reaction mixture, and the resulting slurry stirred at rt for 1.5 h. The reaction is filtered through a filtration tube packed with a short column of Celite, the Celite washed with DCM (2×20 mL), and the combined filtrate evaporated to dryness on a rotary evaporator. The product is air dried for 48 h and then it is dried under vacuum for 2 h to provide crude 4-(4-isopentylpiperazin-1-yl)aniline (1.16 g, 120% recovery due to the incomplete removal of the solvent, >80% purity as determined by LC/MS analysis @ UV 254 nm detection). The crude product was used in the next step without further purification. LCMS-ESI (m/z): calcd for C15H25N3, 247; [M+H]+ found, 248.

reactant | 1-isopentyl-4-(4-nitrophenyl)piperazine | 3.6 mmol, 1.0 g | C(CC(C)C)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H23N3O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-(4-isopentylpiperazin-1-yl)aniline | C(CC(C)C)N1CCN(CC1)C1=CC=C(N)C=C1 | C15H25N3
